US09193723B2
N-(imidazo[1,2-a]pyridin-7-ylmethyl)-5-{1-[(2-methylpropyl)sulfonyl]-1,2,3,6-tetrahydropyridin-4-yl}furan-2-carboxamide
The title compound was prepared as described in Example 682, substituting 2-methylpropane sulfonyl chloride for benzenesulfonyl chloride and N-(imidazo[1,2-a]pyridin-7-ylmethyl)-5-(1,2,3,6-tetrahydropyridin-4-yl)furan-2-carboxamide for N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-(piperidin-4-yl)benzamide. 1H NMR (300 MHz, DMSO-d6) ppm 9.04-8.96 (m, 1H), 8.48 (dd, J=6.9, 0.9 Hz, 1H), 7.89-7.87 (m, 1H), 7.52 (d, J=1.2 Hz, 1H), 7.39 (s, 1H), 7.13 (d, J=3.5 Hz, 1H), 6.84 (dd, J=7.0, 1.7 Hz, 1H), 6.62-6.57 (m, 1H), 6.56-6.51 (m, 1H), 4.47 (d, J=6.1 Hz, 2H), 3.97-3.91 (m, 2H), 3.40 (t, J=5.7 Hz, 2H), 2.97 (d, J=6.5 Hz, 2H), 2.54-2.48 (m, 2H), 2.19-2.05 (m, 1H), 1.07-1.01 (m, 6H); MS (ESI(+)) m/e 443 (M+H)+.

reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-5-(1,2,3,6-tetrahydropyridin-4-yl)furan-2-carboxamide | N=1C=CN2C1C=C(C=C2)CNC(=O)C=2OC(=CC2)C=2CCNCC2 | C18H18N4O2
reactant | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-(piperidin-4-yl)benzamide | N=1C=CN2C1C=C(C=C2)CNC(C2=CC=C(C=C2)C2CCNCC2)=O | C20H22N4O
product | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-5-{1-[(2-methylpropyl)sulfonyl]-1,2,3,6-tetrahydropyridin-4-yl}furan-2-carboxamide | N=1C=CN2C1C=C(C=C2)CNC(=O)C=2OC(=CC2)C=2CCN(CC2)S(=O)(=O)CC(C)C | C22H26N4O4S
